Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Multinodular goiter
 
Major Surgical or Invasive Procedure:
Total thyroidectomy

 
History of Present Illness:
Ms. ___ is a very pleasant ___ year old woman who presents to
clinic today as a referral from Dr. ___ surgical evaluation
of her thyroid nodules and multi-nodular goiter. 

In brief, Ms. ___ was initially diagnosed with 
hypothyroidism
in ___ by means of routine blood work and started on
levothyroxine therapy. On exam, the patient was found to have
palpable thyroid nodules and goiter in ___. A follow up
thyroid ultrasound showed a 3.8cm left thyroid nodule and 1.7cm
right thyroid nodule. Subsequent FNA of the LEFT thyroid nodule
was read as benign ("adequate but suboptimal due to
hypocellularity of follicular cells" - ___ II) and the 
RIGHT
thyroid nodule showed atypia of undetermined significance
(___ III).
  
Ms. ___ reports that her goiter has been noticeably
increasing in size over the past six months, causing compressive
symptoms. She states that her voice has changed, growing
increasingly raspy. She also notes that she has difficulty
swallowing, with dryness of her throat and a nagging cough. She
also states she has dry skin, noticeably on her legs. 

Further, she reports increasing fatigue, noting that she never
feels fully rested, even after a full night's rest. This is
likely secondary to her concurrent OSA - after ___uring weekdays, she feels drained the subsequent morning. Even
after 10 hours of rest on the weekends, she still feels
exhausted. She does not tolerate a CPAP machine, stating the it
causes her to choke. She has attempted using a device that
mechanically thrusts the jaw forward to open the airway during
sleep. She naps during the day on her lunch break secondary to
fatigue. 

She also has global body pain, mostly localized to the low back,
hips, and thighs. She has been loosely diagnosed with
fibromyalgia, noting that there has been no other identified
source of her pain. Her weight has been stable (230lb) over the
past ___ years, but noted a 50lb weight gain after simultaneous
smoking cessation and total hysterectomy (___). 

 
Past Medical History:
- thyroid nodules, hypothyroidism
- obstructive sleep apnea, does not tolerate CPAP
- asthma (when sick with concurrent illness, specifically
pneumonia) - has required steroids in past
- type II diabetes mellitus 
- obesity
- hypertension
- hyperlipidemia
- anxiety
- GERD
- hidradenitis suppuritiva
- ?fibromyalgia
 
Social History:
___
Family History:
- Mother: hypothyroidism, h/o thyroidectomy for goiter
- Sister: hypothyroidism and thyroid nodules
- No family h/o thyroid cancer or other endocrinopathies apart
from hypothyroidism
 
Physical Exam:
Upon Discharge:

Gen: Appears well, AAOx3
CV: RRR
Resp: Normal effort, no distress
Abdomen: Soft, nondistended, nontender, no rebound or guarding
Wound: Incision C/D/I without evidence of hematoma
Ext: Warm, well perfused, no edema
 
Pertinent Results:
Please see OMR for pertinent results
 
Brief Hospital Course:
___ with history of multinodular goiter, now s/p total 
thyroidectomy. She tolerated the procedure well without 
complications (Please see operative note for further details). 
After a brief and uneventful stay in the PACU, the patient was 
transferred to the floor for further post-operative management.

Neuro: Pain was well controlled on Tylenol. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI: The patient was initially started on a clear liquid diet 
after the procedure. The patient was later advanced to and 
tolerated a regular diet at time of discharge. Patient's intake 
and output were closely monitored
GU: Urine output was monitored as indicated. At time of 
discharge, the patient was voiding without difficulty.
Endocrine: The patient was started on thyroid hormone 
replacement, 150 mcg daily on POD #1. She had no symptoms of 
hypocalcemia. Calcium level was normal. 
ID: The patient was closely monitored for signs and symptoms of 
infection and fever.
Heme: ___ dyne boots were used during this stay and she was 
encouraged to get up and ambulate as early as possible.  
n POD1, the patient was discharged to home. At discharge, she 
was tolerating a regular diet, voiding, and ambulating 
independently. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN Cough, wheeze, 
chest tightness 
2. Atorvastatin 40 mg PO QPM 
3. Citalopram 20 mg PO DAILY 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Gabapentin 300 mg PO QHS:PRN Insomnia 
6. Lantus U-100 Insulin (insulin glargine) 10 units subcutaneous 
QHS 
7. Levothyroxine Sodium 50 mcg PO DAILY 
8. Lisinopril 20 mg PO DAILY 
9. MetFORMIN (Glucophage) ___ mg PO DAILY 
10. Montelukast 10 mg PO DAILY 
11. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Calcium Carbonate 500 mg PO TID 
RX *calcium carbonate 500 mg calcium (1,250 mg) 2 tablet(s) by 
mouth twice a day Disp #*60 Tablet Refills:*3 
2.  Levothyroxine Sodium 150 mcg PO DAILY 
RX *levothyroxine 150 mcg 1 tablet(s) by mouth DAILY Disp #*30 
Tablet Refills:*3 
3.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN Cough, wheeze, 
chest tightness  
4.  Atorvastatin 40 mg PO QPM  
5.  Citalopram 20 mg PO DAILY  
6.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
7.  Gabapentin 300 mg PO QHS:PRN Insomnia  
8.  Lantus U-100 Insulin (insulin glargine) 10 units 
subcutaneous QHS  
9.  Lisinopril 20 mg PO DAILY  
10.  MetFORMIN (Glucophage) ___ mg PO DAILY  
11.  Montelukast 10 mg PO DAILY  
12.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Multinodular goiter

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to ___ for observation following your 
surgery. You did well postoperatively and were discharged home 
once you were eating, on oral medications, walking, and 
completing daily activities as normal. 

Medications: 
You were started on thyroid hormone medication, take as 
prescribed. For pain medication you may take acetaminophen 
(Tylenol)as directed for mild pain. 

Your calcium level is normal at discharge and no calcium 
supplement is needed. However, monitor for symptoms of low 
calcium: If you develop tingling or numbness around your mouth 
or fingertips this may be a sign of a low calcium and you should 
call our office. If you develop severe symptoms, please go to 
emergency room.

Wound care:
You may shower normally. Allow warm soapy water to run over the 
wound, rinse and pat dry gently. There is no need to keep a 
dressing over the wound. Do not apply creams or ointments. Do 
not submerge the wound in a swimming pool or bath until cleared 
at your follow up visit. Do not pull off the steri strip 
tapes--these will fall off by themselves over the next ___ 
weeks.

Diet:
You may resume your regular home diet without restriction. You 
should use stick to foods that do not upset your stomach. You 
may need to start with small meals first and may not feel very 
hungry at first. This will improve over time. You may supplement 
your diet with protein shakes as needed if you do not feel you 
are taking in enough nutrition.

Activity:
You may resume all of your normal home activities, except for 
straining or lifting heavy weight. We recommend you resume 
walking, exercise, bathing, per your normal regimen. 

Warning signs:
You should contact our clinic or return to the ED immediately if 
you experience any of the following signs or symptoms:
Fever above 101.5
Worsening pain
Worsening GI upset, nausea/vomiting, diarrhea
Change in the appearance of your incision, or redness, swelling, 
or change in drainage from your incision
Any other symptoms that concern you

You can contact our clinic at any time with questions or 
concerns. You should be seen in our clinic for follow up 
following your discharge from the hospital. 

Best wishes,
Your ___ Care Team
 
Followup Instructions:
___